US07399757B1
Preparation of 1-Methylethyl 2-(4-methoxy-[1,1′-biphenyl]-3-yl)diazenecarboxylate 2-oxide
A solution of 1-methylethyl (4-methoxy-[1,1′-biphenyl]-3-yl)diazenecarboxylate (10.25 g) in dichloromethane (160 mL) was cooled in an ice bath and meta-chloroperbenzoic acid (14.8 g) was added in portions with stirring. Additional dichloromethane (90 mL) was added and the solution left to stir at room temperature for 3 days. To the mixture, dichloromethane (200 mL) was added and washed with saturated potassium bicarbonate (300 mL), followed by saturated sodium sulfite (2×200 mL) and finally saturated potassium bicarbonate (200 mL). The organic phase was dried with sodium sulfate and evaporated to give the product as a brown-orange solid (9.78 g). The product was purified using silica gel chromatography (1:5 ethyl acetate:hexane). Evaporation of the desired fractions gave purified product as an orange solid (6.19 g), with melting point 102-106° C. The product was analyzed by NMR (CDCl3) which showed 1.4 d (6H), 3.9 s (3H), 5.2 m (1H), 7.1-7.9 m (8H), where d signifies doublet, s signifies singlet, and m signifies multiplet; and by LC/MS which showed m/z: 315.8 (M+H)+, (M)+ 314.7.

reactant | 1-methylethyl (4-methoxy-[1,1′-biphenyl]-3-yl)diazenecarboxylate | 10.25 g | COC1=C(C=C(C=C1)C1=CC=CC=C1)N=NC(=O)OC(C)C | C17H18N2O3
reactant | meta-chloroperbenzoic acid | 14.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 1-Methylethyl 2-(4-methoxy-[1,1′-biphenyl]-3-yl)diazenecarboxylate 2-oxide | 9.78 g | COC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=NC(=O)OC(C)C)[O-] | C17H18N2O4
